US05204373
1,2,3,4-Tetrahydro-6-Methoxy-2-Naphthalenemethanol Trifluoromethanesulfonate (4)
1,2,3,4-Tetrahydro-6-methoxy-2-naphthalenemethanol (2.0 g, 10.42 mmole) and triethylamine (2.2 mL, 15.6 mmole) were dissolved in about 20 mL of methylene chloride and the solution was cooled to about -78° under nitrogen. Triflic anhydride (2.27 mL, 13.54 mmole) was added dropwise the stirred mixture at about -78°. After the addition, the mixture was warmed to about -5°, at which time TLC [2:1 hexanes:EtOAc] indicated complete conversion to the less polar triflate ester. The reaction mixture was quenched with about 1N HCl and extracted with methylene chloride. The methylene chloride extracts were dried (MgSO4) and concentrated in vacuo. The crude oil was purified by flash chromatography [5:1 Hexanes:Ether] to yield the title compound as a light yellow oil that solidified on standing [mp 52°-54° ](3.15 g, 9.72 mmole, 93% yield). The triflate ester was somewhat unstable; a small sample turned black after several hours at about 23°. The bulk was stored at about -20° and was used without delay in the next step: 1H NMR (CDCl3) δ1.55 (m, 1H), 2.03 (m, 1H), 2.30 (m, 1H), 2.49,2.55 (d of d, J=10,16 Hz, 1H), 2.85 (m, 3H), 3.77 (s, 3H), 4.50 (d, J=6 Hz, 2H), 6.64 (d, J=2 Hz, 1H), 6.71(d of d, J=8,2 Hz, 1H), 7.01 (d, J=8 Hz, 1H).

reactant | 1,2,3,4-Tetrahydro-6-methoxy-2-naphthalenemethanol | 10.42 mmole, 2.0 g | COC=1C=C2CCC(CC2=CC1)CO | C12H16O2
reactant | triethylamine | 15.6 mmole, 2.2 mL | C(C)N(CC)CC | C6H15N
reactant | Triflic anhydride | 13.54 mmole, 2.27 mL | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | methylene chloride | about 20 mL | C(Cl)Cl | CH2Cl2
product | 1,2,3,4-Tetrahydro-6-Methoxy-2-Naphthalenemethanol Trifluoromethanesulfonate | 93% yield | FC(S(=O)(=O)OCC1CC2=CC=C(C=C2CC1)OC)(F)F | C13H15F3O4S
